US08809342B2
(±)-4-(1-hydroxybutyl)-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbonitrile
A sealed flask was charged with the (4-(trifluoromethyl)phenyl)boronic acid (1.09 g, 5.76 mmol), 2-bromo-5-(1-hydroxybutyl)benzonitrile (1.33 g, 5.23 mmol) and acetonitrile (17 mL). Once everything get into solution, 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (115 mg, 157 μmol) was added followed by the sodium carbonate 2M aq. (6.54 mL, 13.1 mmol). Flask sealed and heated at 140° C. for 1 hour. Organic solvent removed under reduced pressure and ethyl acetate added. Organics washed with water (1×), with brine (1×), dried over sodium sulfate, filtered and concentrated to provide the crude material. Purification by silica gel flash chromatography (Ethyl Acetate/Heptane) provide the title compound as a colorless oil (1.39 g, 83.2%). 1H NMR (400 MHz, DMSO-d6) δ 0.87-0.93 (m, 3 H) 1.25-1.45 (m, 2 H) 1.57-1.67 (m, 2 H) 4.64-4.70 (m, 1 H) 5.41 (d, J=4.68 Hz, 1 H) 7.64 (d, J=8.00 Hz, 1 H) 7.75-7.79 (m, 1 H) 7.82 (d, J=8.00 Hz, 2 H) 7.88-7.94 (m, 3 H).

reactant | (4-(trifluoromethyl)phenyl)boronic acid | 5.76 mmol, 1.09 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-bromo-5-(1-hydroxybutyl)benzonitrile | 5.23 mmol, 1.33 g | BrC1=C(C#N)C=C(C=C1)C(CCC)O | C11H12BrNO
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 17 mL | C(C)#N | C2H3N
product | (±)-4-(1-hydroxybutyl)-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbonitrile | 1.39 g, 83.2% | OC(CCC)C=1C=C(C(=CC1)C1=CC=C(C=C1)C(F)(F)F)C#N | C18H16F3NO
